R1 2 1 1000
C1 1 0 1e-6
V1 2 0 DC 2 1.0 1000.0 0.0
.TRAN

* Run with: $ python3 -m simulator.circuit --netlist circuits/example_nl_res.net --analysis DC --nodes 1 2